US05162571
To 4-ethyl-2,3,5-trimethylanisole (7.8 g) was added 47% aqueous hydrogen bromide solution and the mixture was refluxed for 17 hours. Water was added to the solution and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate, water and saturated saline and dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was recrystallized from hexane to obtain 4-ethyl-2,3,5-trimethylphenol (3.6 g) (Compound A-17). The physical properties and NMR spectrum data thereof are shown in Table 1.

reactant | 4-ethyl-2,3,5-trimethylanisole | 7.8 g | C(C)C1=C(C(=C(C=C1C)OC)C)C | C12H18O
reactant | hydrogen bromide | Br | BrH
solvent | Water | O | H2O
product | 4-ethyl-2,3,5-trimethylphenol | 3.6 g | C(C)C1=C(C(=C(C=C1C)O)C)C | C11H16O
